US04552866
(C) N-[N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-phenylalanyl]-L-leucine, hydrochloride salt (1:2)
A solution of N-[N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-phenylalanyl-L-leucine, t-butyl ester (845 mg, 1.5 mmol) in 22 ml of 1.3N hydrogen chloride in acetic acid was allowed to stir at room temperature for 2 hours. The resultant thick white slurry was evaporated to dryness in vacuo. The residue was dissolved in water and the solution was microfiltered and concentrated in vacuo to give a white gummy residue. Trituration with ether afforded 698 mg of the title compound as a fine white powder, melting point 179°-203° C. (with decomposition). The 13C-NMR spectrum was consistent with an approximately 2:1 mixture of alcohol isomers.

reactant | N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-phenylalanyl-L-leucine, t-butyl ester | 1.5 mmol, 845 mg | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)O)CC(C)C | C31H53N3O6
reactant | ether | CCOCC | C4H10O
reactant | hydrogen chloride | 1.3N, 22 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-phenylalanyl]-L-leucine, hydrochloride salt | 698 mg | Cl.N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)O)CC(C)C | InChI=1S/C22H37N3O4.ClH/c1-14(2)10-17(23)20(26)13-24-18(12-16-8-6-5-7-9-16)21(27)25-19(22(28)29)11-15(3)4;/h5-9,14-15,17-20,24,26H,10-13,23H2,1-4H3,(H,25,27)(H,28,29);1H/t17-,18-,19-,20?;/m0./s1
